US06897224B2
4-(5-Fluoro-2-hydroxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
290 mg (0.62 mmol) of 4-(5-fluoro-2-methoxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol in 7.0 ml of dichloromethane is mixed at room temperature with 12.5 ml (12.5 mmol) of a 1 M boron tribromide solution. After 20 hours at room temperature, the reaction is brought to a halt by adding methanol. The solvent is removed in a vacuum, the residue is taken up in saturated sodium bicarbonate solution and ethyl acetate, extracted with ethyl acetate, and the combined organic phases are dried on sodium sulfate. After the solvent is removed and after purification on silica gel with hexane-ethyl acetate (0-70%) as well as with ethyl acetate-methanol (0-10%), 160 mg (51% of theory) of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.62 mmol, 290 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)(C)C)OC | C24H26F4N2O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 7.0 ml | ClCCl | CH2Cl2
product | 4-(5-Fluoro-2-hydroxyphenyl)-1-(2-(hydroxymethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)(C)C)O | C23H24F4N2O3
